US08754207B2
Preparation of 5-methyl-2,2-diphenyl-1,3-dioxane-5-carboxylic acid. Formula-(IIb3)
In a round bottom flask, (12 g) 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoic acid and 35 ml toluene was taken. (99.4 mg) p-toluene sulfonic acid was added into the reaction mixture at 25-30° C. temperature. The reaction mixture was heated at reflux temperature, and 20.5 g (1 equiv.) dimethoxy diphenylmethane [IIa3] in 35 ml toluene was added and it was further refluxed under dean stark. Continuous removal and addition of toluene done upto 3 hrs. Then reaction mixture was cooled at 25-30° C. and dumped into water. The reaction mixture was stirred at 20-30° C. and filter it and wash the solid mass with water to obtain white solid product.

reactant | 3-hydroxy-2-(hydroxymethyl)-2-methylpropanoic acid | 12 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | p-toluene sulfonic acid | 99.4 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dimethoxy diphenylmethane | 20.5 g, 1 equiv. | COC(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C15H16O2
reactant | water | O | H2O
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2,2-diphenyl-1,3-dioxane-5-carboxylic acid | CC1(COC(OC1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C18H18O4
